US06200784B1
2 ml of acetone were added to the reactor which contained 100 mg of Novozim 435, 60 mg of glucose and 200 mg of lauric acid. The reaction was carried out under mild continual agitation at 40° C. and water was continually removed from the reaction medium. 121 mg of glucose 6-monolaurate were obtained after 3 days of reaction corresponding to a yield of 99%.

reactant | glucose | 60 mg | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | lauric acid | 200 mg | C(CCCCCCCCCCC)(=O)O | C12H24O2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | glucose 6-monolaurate | 121 mg, yield of 99% | C(CCCCCCCCCCC)(=O)OC[C@H]([C@H]([C@@H]([C@H](C=O)O)O)O)O | C18H34O7
